US05076961
303 g of hydrazine hydrate was added to a solution of 150 g of p-ethylanisic acid in 300 ml of ethanol, followed by heat-refluxing for 20 hours. After the reaction, the reaction mixture was poured into 1.5 liters of iced water to precipitate a crystal. The crystal was recrystallized from ethanol to obtain 88.2 g of 4-methoxybenzohydrazide.

reactant | hydrazine hydrate | 303 g | O.NN
reactant | p-ethylanisic acid | 150 g | C(C)C1(CC=C(C(=O)O)C=C1)OC | C10H14O3
reactant | water | 1.5 liters | O | H2O
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | 4-methoxybenzohydrazide | 88.2 g | COC1=CC=C(C(=O)NN)C=C1 | C8H10N2O2
